US03974162
[6-(p-Chlorobenzylamino)-4-pyrimidinylthio]acetic acid ethyl ester. ##SPC10##
A mixture of the residual oil [(6-chloro-4-pyrimidinylthio)acetic acid ethyl ester], 5.6 g. of p-chlorobenzylamine and 4.26 g. of sodium carbonate in 150 ml. of ethanol was heated under reflux for 5 hours. The mixture was filtered and was cooled. The precipitate thus formed was collected and recrystallized from ethanol to afford 5.2 g. of product, m.p. 116°-120°C.

reactant | (6-chloro-4-pyrimidinylthio)acetic acid ethyl ester | C(C)OC(CSC1=NC=NC(=C1)Cl)=O | C8H9ClN2O2S
reactant | p-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | [6-(p-Chlorobenzylamino)-4-pyrimidinylthio]acetic acid ethyl ester | C(C)OC(CSC1=NC=NC(=C1)NCC1=CC=C(C=C1)Cl)=O | C15H16ClN3O2S
